US06992087B2
Preparation of cis-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-amine
Following the procedure for the preparation of 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine but substituting 2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-one oxime and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.03, 1.39, 2.30, 2.63, 2.86, 3.82, 4.26, 6.77, 7.12;

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | N1=C2C(=CC=C1)C(CC2)N | C8H10N2
reactant | 2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-one oxime | C(C)C1C(C2=CC(=CC=C2C1)OC)=NO | C12H15NO2
product | cis-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-amine | C(C)[C@@H]1[C@@H](C2=CC(=CC=C2C1)OC)N | C12H17NO
